US07199147B2
A 1N-aqueous sodium hydroxide solution (8.64 ml, 8.64 mmol) was added to a solution of ethyl (5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazol-4-yl)acetate (1.92 g, 5.76 mmol) in dioxane (20 ml), and the resulting mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure, and water, ethyl acetate and 1N-hydrochloric acid were added to the residue. The resulting mixture was extracted with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent, whereby (5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazol-4-yl)acetic acid was obtained. N,N-dimethyl-formamide (20 ml) and then potassium carbonate (800 mg, 5.79 mmol) were added thereto, and the resulting mixture was stirred at 50° C. for 30 minutes. Water, ethyl acetate, toluene and 1N-hydrochloric acid were added thereto, followed by extraction with ethyl acetate/toluene=1/1, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent, whereby 4-methyl-5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazole (1.39 g, 93%) was obtained.

reactant | sodium hydroxide | 8.64 mmol, 8.64 ml | [OH-].[Na+]
reactant | ethyl (5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazol-4-yl)acetate | 5.76 mmol, 1.92 g | [N+](=O)([O-])C=1C(=C2C=NN(C2=CC1)C1OCCCC1)CC(=O)OCC | C16H19N3O5
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazol-4-yl)acetic acid | [N+](=O)([O-])C=1C(=C2C=NN(C2=CC1)C1OCCCC1)CC(=O)O | C14H15N3O5
